US06284785B1
(RS)-1-{4-[2-(4-Fluoro-phenyl)-pyrrolidine-1- sulfonyl]-phenyl}-ethanone
The title compound, pale brown solid, m.p. 148° C. and MS: m/e=348 (M+H+) was prepared in accordance with the general method of example 1e from (RS)-2-(4-fluoro-phenyl)-pyrrolidine and 4-acetyl-benzenesulfonyl chloride.

reactant | (RS)-2-(4-fluoro-phenyl)-pyrrolidine | FC1=CC=C(C=C1)C1NCCC1 | C10H12FN
reactant | 4-acetyl-benzenesulfonyl chloride | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
product | (RS)-1-{4-[2-(4-Fluoro-phenyl)-pyrrolidine-1- sulfonyl]-phenyl}-ethanone | FC1=CC=C(C=C1)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C(C)=O | C18H18FNO3S
